US06448242B1
A 37% aqueous solution of formaldehyde (5 ml; 67 mmol) and sodium cyanoborohydride (314 mg; 5.0 mmol) were added to a solution in acetonitrile (20 ml) of N,N-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]amine (1.0 g; 2.4 mmol) synthesized by the above process, and the mixture was stirred at room temperature for 15 minutes. Acetic acid was then added to the solution to adjust the pH to about 5, and the mixture was stirred further for 48 hours at room temperature. The reaction mixture was brought to pH about 10 by addition of aqueous 2.5N sodium hydroxide and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 989 mg (yield: 95%) of N,N-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]-methylamine as a colorless oil.

reactant | formaldehyde | 67 mmol, 5 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 5.0 mmol, 314 mg | C(#N)[BH3-].[Na+]
reactant | N,N-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]amine | 2.4 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNCC1CCN(CC1)C(=O)OC(C)(C)C | C22H41N3O4
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | N,N-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]-methylamine | 989 mg, yield: 95% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(CC1CCN(CC1)C(=O)OC(C)(C)C)C | C23H43N3O4
